US05364871
A suspension of 4-[(2-acetylamino-1-iminoethylthio)acetyl]-2-(diaminomethyleneamino)thiazole hydrobromide (11.4 g) in ethanol (100 ml) was refluxed for 2.5 hours. The resulting precipitate was collected by filtration and suspended in water (150 ml). The mixture was alkalized to pH 11 with a saturated aqueous potassium carbonate solution. The resulting precipitate was collected by filtration. Recrystallization from water afforded 4-(2-acetylaminomethylthiazol-4-yl )-2-(diaminomethyleneamino)thiazole (6.36 g). IR (Nujol): 3250, 1640 cm-1

reactant | 4-[(2-acetylamino-1-iminoethylthio)acetyl]-2-(diaminomethyleneamino)thiazole hydrobromide | 11.4 g | Br.C(C)(=O)NCC(SCC(=O)C=1N=C(SC1)N=C(N)N)=N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(2-acetylaminomethylthiazol-4-yl )-2-(diaminomethyleneamino)thiazole | 6.36 g | C(C)(=O)NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C10H12N6OS2
